* source SIMULATION
R_R29         0 N50764  1.91k TC=0,0 
R_R3         N50764 VIN2- R_R3 4.02k TC=0,0 
.model        R_R3 RES R=1 DEV=0.1%
V_V1         VCC 0 3.2943Vdc
C_C4         VCC 0  10uF  
C_C2         0 VCC  0.1uF  TC=0,0 
C_C5         0 VCC  0.1uF  TC=0,0 
R_R25         VIN2- N50572 R_R25 4.02k TC=0,0 
.model        R_R25 RES R=1 DEV=0.1%
R_R4         N50764 VIN2+ R_R4 100k TC=0,0 
.model        R_R4 RES R=1 DEV=0.1%
R_R28         N50572 VCC  1.91k TC=0,0 
R_R26         VIN2+ N50572 R_R26 4.02k TC=0,0 
.model        R_R26 RES R=1 DEV=0.1%
R_R31         0 N52095  113k TC=0,0 
X_U10         N52009 VIN- VIN+ 0 VCC N52095 N52427 VCC N52063 INA327
R_R30         N52063 N52009  100k TC=0,0 
C_C9         0 N52095  1nF  TC=0,0 
C_C10         0 VCC  0.1uF  TC=0,0 
R_R32         N52427 VOUT  100 TC=0,0 
C_C11         0 VOUT  1uF  TC=0,0 
R_R14         0 ADC_BATT R_R14 7.15k TC=0,0 
.model        R_R14 RES R=1 DEV=0.1%
R_R13         ADC_BATT N52814 R_R13 10k TC=0,0 
.model        R_R13 RES R=1 DEV=0.1%
V_V2         N52814 0 6.Vdc
R_R36         N56455 VIN- R_R36 8.2k TC=0,0 
.model        R_R36 RES R=1 DEV=0.1%
R_R34         VIN- N56303 R_R34 8.2k TC=0,0 
.model        R_R34 RES R=1 DEV=0.1%
R_R37         N56455 VIN+ R_R37 100k TC=0,0 
.model        R_R37 RES R=1 DEV=0.1%
R_R33         N56303 N56267  976 TC=0,0 
R_R38         0 N56455  976 TC=0,0 
R_R35         VIN+ N56303 R_R35 8.2k TC=0,0 
.model        R_R35 RES R=1 DEV=0.1%
V_V3         N56267 0 3.003Vdc
